US07129238B2
A solution of 1-bromo-3,5-difluorobenzene (16.8 g) in THF (180 ml) was cooled to −75° C. under an argon atmosphere. A 2 M solution of lithiumdiisopropylamide in THF/heptane/ethylbenzene (43.1 ml) was slowly added at below −70° C. The mixture was stirred at −78° C. for 1 h. Dimethylformamide (12.6 ml) was added and the mixture was stirred for 2 h. The cooling bath was removed and the mixture was slowly warmed to rt. The mixture was diluted with diethyl ether and washed with 0.5 M HCl. The aqueous phase was extracted with diethyl ether. The combined organic phase was dried (MgSO4), filtered and the solvent was removed to give the crude 4-bromo-2,6-difluorobenzaldehyde (12.4 g). The crude aldehyde was reacted according to general procedure A using methanol/dioxane as a solvent. The product of this reaction was subsequently coupled with 4-aminomethyl benzonitrile according to general procedure B to give (RS)-2-(4-bromo-2,6-difluoro-phenyl)-N-(4-cyano-benzyl)-2-methoxy-acetamide. Yellow oil. MS 395.0 ([M+H]+)

reactant | 1-bromo-3,5-difluorobenzene | 16.8 g | BrC1=CC(=CC(=C1)F)F | C6H3BrF2
reactant | lithiumdiisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | Dimethylformamide | 12.6 ml | CN(C=O)C | C3H7NO
reactant | 4-aminomethyl benzonitrile | NCC1=CC=C(C#N)C=C1 | C8H8N2
reactant | THF | 180 ml | C1CCOC1 | C4H8O
solvent | THF heptane ethylbenzene | 43.1 ml | C1CCOC1.CCCCCCC.C(C)C1=CC=CC=C1
solvent | methanol dioxane | CO.O1CCOCC1
product | (RS)-2-(4-bromo-2,6-difluoro-phenyl)-N-(4-cyano-benzyl)-2-methoxy-acetamide | BrC1=CC(=C(C(=C1)F)C(C(=O)NCC1=CC=C(C=C1)C#N)OC)F | C17H13BrF2N2O2
